US06528504B2
(R)-5,11-Dihydro-5-[1-(3,4-methylenedioxyphenethyl)piperidine-2-yl-methyl]dibenzo[b,e][1,4]oxazepine Hydrochloride
1.5 ml of 4 M hydrochloric acid/ethyl acetate was added to a solution of (R)-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl) piperidine-2-ylmethyl] dibenzo [b,e][1,4] oxazepine (171 mg) in dichloromethane (5 ml), and they were stirred for 2 hours. The solvent was evaporated under reduced pressure. The title compound was obtained in the form of a white solid (150 mg, 80%).

reactant | hydrochloric acid ethyl acetate | 4 M, 1.5 ml | Cl.C(C)(=O)OCC
reactant | (R)-5,11-dihydro-5-[1-(3,4-methylenedioxyphenethyl) piperidine-2-ylmethyl] dibenzo [b,e][1,4] oxazepine | 171 mg | C1OC=2C=C(CCN3[C@H](CCCC3)CN3C4=C(OCC5=C3C=CC=C5)C=CC=C4)C=CC2O1 | C28H30N2O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-(3,4-methylenedioxyphenethyl)piperidine-2-yl-methyl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.C1OC=2C=C(CCN3[C@H](CCCC3)CN3C4=C(OCC5=C3C=CC=C5)C=CC=C4)C=CC2O1 | InChI=1S/C28H30N2O3.ClH/c1-2-9-24-22(7-1)19-31-26-11-4-3-10-25(26)30(24)18-23-8-5-6-15-29(23)16-14-21-12-13-27-28(17-21)33-20-32-27;/h1-4,7,9-13,17,23H,5-6,8,14-16,18-20H2;1H/t23-;/m1./s1
